US08012976B2
Ethyl 2-(4-(diethoxymethyl)phenyl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A solution of (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one (10.8 g, 31.9 mmol) and 4-fluorobenzaldehyde (3.95 g, 31.9 mmol) in ethyl propionate (150 mL) was added sodium ethoxide (8.66 g, 127.4 mmol, in ethanol 60 ml) at 0° C. Then the mixture was stirred at room temperature for 5 hr. The resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether:ethyl acetate=20:1 to 1:1) to give the crude product (4.2 g, yield 26%). LC-MS (ESI) m/z: 492 (M+1)+.

reactant | (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one | 31.9 mmol, 10.8 g | C(C)OC(C1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1)OCC | C20H21NO4
reactant | 4-fluorobenzaldehyde | 31.9 mmol, 3.95 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium ethoxide | 127.4 mmol, 60 ml, 8.66 g | [O-]CC.[Na+]
reactant | ethyl propionate | 150 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-(diethoxymethyl)phenyl)-3-(4-fluorophenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 4.2 g, yield 26% | C(C)OC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)F)=O)C(=O)OCC)OCC | C29H30FNO5
